US09102632B2
To 177 mg (0.72 mM) of 3-(benzylthio)-1-ethylpyrazin-2(1H)-one and 66.4 mg (0.79 mM) of sodium hydrogenocarbonate in 4 ml of tetrahydrofurane were added 1.67 g (2.87 mM) of potassium peroxymonosulfate (oxone) in 4 ml of water. The reaction mixture was then stirred at room temperature for 16 h. Water was added and the organic phase was extracted twice with ethyle acetate. The combined organic layer was washed with water, dried on anhydrous sodium sulfate and the solvent was removed under vacuum, to give a solid, which was triturated in diisopropyle oxide, filtrated and dried under vacuum, to give 103 mg of 3-benzylsulfonyl-1-ethylpyrazin-2(1H)-one. Yield: 52%.

reactant | 3-(benzylthio)-1-ethylpyrazin-2(1H)-one | 0.72 mM, 177 mg | C(C1=CC=CC=C1)SC=1C(N(C=CN1)CC)=O | C13H14N2OS
reactant | sodium | 0.79 mM, 66.4 mg | [Na] | Na
reactant | potassium peroxymonosulfate | 2.87 mM, 1.67 g | S(=O)(=O)(O[O-])[O-].[K+].[K+]
reactant | water | 4 ml | O | H2O
solvent | tetrahydrofurane | 4 ml | O1CCCC1 | C4H8O
product | 3-benzylsulfonyl-1-ethylpyrazin-2(1H)-one | 103 mg, Yield: 52% | C(C1=CC=CC=C1)S(=O)(=O)C=1C(N(C=CN1)CC)=O | C13H14N2O3S
